US04829069
(b) 4-[2-(Diethylamino)ethylthio]-quinazoline
The title compound(4.82 g) was prepared from 4-mercaptoquinazoline(5.0 g) and N,N-diethylaminoethylchloride hydrochloride(5.3 g).

reactant | 4-mercaptoquinazoline | 5.0 g | SC1=NC=NC2=CC=CC=C12 | C8H6N2S
reactant | N,N-diethylaminoethylchloride hydrochloride | 5.3 g | Cl.C(C)N(CC)CCCl
product | 4-[2-(Diethylamino)ethylthio]-quinazoline | 4.82 g | C(C)N(CCSC1=NC=NC2=CC=CC=C12)CC | C14H19N3S
